US08202858B2
(6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-(4-hexylaminomethyl-cyclohexyl)-methanone
A solution of 1-bromohexane (0.83 mg, 0.005 mmol) in DMF (0.05 ml) was added to a solution of (4-Aminomethyl-cyclohexyl)-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone hydrochloride from Example E10.2 (2.05 mg, 0.005 mmol) in DMF (0.05 ml) and triethylamine (0.0021 ml). The mixture was stirred for 20 h at room temperature then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=458.4

reactant | 1-bromohexane | 0.005 mmol, 0.83 mg | BrCCCCCC | C6H13Br
reactant | (4-Aminomethyl-cyclohexyl)-(6-chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone hydrochloride | Cl.NCC1CCC(CC1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)Cl
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.05 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.0021 ml | C(C)N(CC)CC | C6H15N
product | (6-Chloro-3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-(4-hexylaminomethyl-cyclohexyl)-methanone | ClC=1C=CC2=C(NC=3N(N=CC3CN2C(=O)C2CCC(CC2)CNCCCCCC)C)C1 | C25H36ClN5O
